US05527819
Preparation of Methyl 5-chloro-3-phenylthioindole-2-carboxylate
Oxalyl chloride (0.70 mL, 9.6 mmol) was added to a solution of 5-chloro-3-phenylthioindole-2-carboxylic acid (0.97 g, 3.2 mmol) in chloroform (50 mL) under nitrogen. The reaction was refluxed for 3 h, cooled and reduced to dryness in vacuo. The resulting solid was dissolved in chloroform and added to methanol at 0° C. The methanol was removed in vacuo and the crude product chromatographed on silica gel with 20% ethyl acetate in hexane. The title compound was obtained as a solid, mp 193°-196° C. Anal. Calc. for C16H12ClNO2S: C, 60.47; H, 3.81; N, 4.42. Found: C, 60.09; H, 3.50; N, 4.67.

reactant | Oxalyl chloride | 9.6 mmol, 0.70 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 5-chloro-3-phenylthioindole-2-carboxylic acid | 3.2 mmol, 0.97 g | ClC=1C=C2C(=C(NC2=CC1)C(=S)O)C1=CC=CC=C1 | C15H10ClNOS
reactant | methanol | CO | CH4O
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | Methyl 5-chloro-3-phenylthioindole-2-carboxylate | ClC=1C=C2C(=C(NC2=CC1)C(=S)OC)C1=CC=CC=C1 | C16H12ClNOS
